US05670503
A mixture of 3-indolylacetic acid (57 mg, 0.325 mmol), 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide (50 mg, 0.325 mmol) and 1-hydroxybenzotriazole (44 mg, 0.325 mmol) in N,N-dimethylformamide (0.6 ml) was stirred for 1 hour at ambient temperature. Then to the mixture was added 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (80 mg, 0.271 mmol) in N,N-dimethylformamide (1 ml). After stirring for 2 hours, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by crystallization from ethyl acetate to give 7-(4-fluorophenyl)-2-(3-indolylacetyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (87 mg).

reactant | 3-indolylacetic acid | 0.325 mmol, 57 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide | 0.325 mmol, 50 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.325 mmol, 44 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 0.271 mmol, 80 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
solvent | N,N-dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 7-(4-fluorophenyl)-2-(3-indolylacetyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 87 mg | FC1=CC=C(C=C1)C1=NN2C(NN(CC2)C(CC2=CNC3=CC=CC=C23)=O)=C1C1=CC=NC=C1 | C26H21FN6O
